US09340506B2
Ethyl 3-[2-[[2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetyl]amino]thiazol-5-yl]oxybenzoate
A 1 L two necked round bottom flask maintained under inert atmosphere was charged with 2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid (16 g, 47 mmol; preparation 4), ethyl 3-(2-aminothiazol-5-yl)oxybenzoate (13.6 g, 51 mmol; preparation 20), HOBt (7.6 g, 56 mmol) and EDCl (10.8 g, 56 mmol) in Dichloromethane (500 mL). The reaction mixture was stirred at 25° C. and added triethylamine (15.8 mL, 113 mmol). The resulting mixture was continued to stir for 16 hours at 25° C. Completion of reaction was confirmed by TLC. The reaction mixture was diluted with water (400 mL) and DCM (250 mL). The layers were separated. The aqueous layer was again extracted with DCM (2×200 mL). The combined organic layer was washed with 1N HCl (300 mL), brine and dried over anhydrous sodium sulphate and concentrated under reduced pressure. The obtained residue was purified by column chromatography using 5-40% ethyl acetate in hexanes as solvent system to get a pure product (16 g).

reactant | 2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid | 47 mmol, 16 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C16H20O6S
reactant | ethyl 3-(2-aminothiazol-5-yl)oxybenzoate | 51 mmol, 13.6 g | NC=1SC(=CN1)OC=1C=C(C(=O)OCC)C=CC1 | C12H12N2O3S
reactant | HOBt | 56 mmol, 7.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 56 mmol, 10.8 g | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 113 mmol, 15.8 mL | C(C)N(CC)CC | C6H15N
solvent | Dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | water | 400 mL | O | H2O
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-[2-[[2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetyl]amino]thiazol-5-yl]oxybenzoate | 16 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC(=CN1)OC=1C=C(C(=O)OCC)C=CC1)OC1CCOCC1 | C28H30N2O8S2
